US07329679B2
3-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]propan-1-ol
0.5 g of 1,2-diphenyl-6-hydroxy-1H-benzimidazole was reacted according to general operating instructions 8 with 3-(bromopropoxy)-tert-butyldimethylsilane. After chromatography on silica gel, it was taken up in 2.5 ml of methanol, 0.4 ml of concentrated-hydrochloric acid was added, and it was allowed to stir for 2 hours at 20° C. It was poured onto saturated aqueous sodium bicarbonate solution, extracted three times with ethyl acetate, the combined extracts were washed with saturated aqueous sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum.

reactant | 1,2-diphenyl-6-hydroxy-1H-benzimidazole | 0.5 g | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)O)C2=CC=CC=C2 | C19H14N2O
solvent | methanol | 2.5 ml | CO | CH4O
product | 3-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]propan-1-ol | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OCCCO)C2=CC=CC=C2 | C22H20N2O2
